### PR TITLE
[Merged by Bors] - refactor(RepresentationTheory/GroupCohomology): tidy up 8599 and add more low degree cocycle API

### PR DESCRIPTION
**Pull request by 101damnations**
---

Sorry to have merged #8599 hastily! This PR tidies up details like namespacing in that PR. Also, given an additive or multiplicative group `A` with an appropriate scalar action of a group `G`, we define low degree cocycle/coboundary conditions on $Fun(G, A), Fun(G^2, A),$ and then link that up with the existing cocycle/coboundary types for the representation associated to `A`. Using this, `RepresentationTheory.GroupCohomology.Hilbert90` gets clearer.

Lots of `DistribMulAction` and `MulDistribMulAction` stuff here but it seems like they can't be related by `to_additive` afaik.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by alexjbest** [comment]
The module docstring of https://leanprover-community.github.io/mathlib4_docs/Mathlib/RepresentationTheory/GroupCohomology/Basic.html#groupCohomology has some broken tex in it, could you also fix that in this PR? or later

File: Mathlib/RepresentationTheory/GroupCohomology/Hilbert90.lean [hunk 1]
```diff
@@ -71,37 +72,36 @@ section
 open Hilbert90
 variable {K L : Type*} [Field K] [Field L] [Algebra K L] [FiniteDimensional K L]
 
-theorem hilbert90 (f : (L ≃ₐ[K] L) → Lˣ)
-    (hf : ∀ (g h : (L ≃ₐ[K] L)), f (g * h) = g (f h) * f g) :
-    ∃ β : Lˣ, ∀ g : (L ≃ₐ[K] L), f g * Units.map g β = β := by
+/-- Given a finite extension of fields and a function `f : Aut_K(L) → Lˣ` satisfying
+`f(gh) = g(f(h)) * f(g)` for all `g, h : Aut_K(L)`, there exists `β : Lˣ` such that
+`g(β)/β = f(g)` for all `g : Aut_K(L).` -/
+theorem hilbert90 (f : (L ≃ₐ[K] L) → Lˣ) (hf : IsMulOneCocycle f) :
```
Comment (erdOne) [inline Mathlib/RepresentationTheory/GroupCohomology/Hilbert90.lean:78]: I think we usually give it a name like `isMulOneCoboundary_of_isMulOneCocycle_of_aut_to_units`

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 2]
```diff
@@ -331,19 +346,180 @@ theorem oneCoboundaries_eq_bot_of_isTrivial (A : Rep k G) [A.IsTrivial] :
...
+that `g • x(h) - x(gh) + x(g) = f(g, h)` for all `g, h : G`. -/
+def IsTwoCoboundary (f : G × G → A) : Prop :=
+  ∃ x : G → A, ∀ g h : G, g • x h - x (g * h) + x g = f (g, h)
+
+end
+section
+
+variable {k G A : Type u} [CommRing k] [Group G] [AddCommGroup A] [Module k A]
+  [DistribMulAction G A] [SMulCommClass G k A]
+
```
Comment (erdOne) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:401]: Can you restate `mem_oneCocycles_iff` etc. as an iff using the predicates introduced above?

Comment (101damnations) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:454]: Thanks for the comments! I have done this now

**Comment by alexjbest** [comment]
LGTM, sorry that this was waiting so long now!

maintainer merge

**Comment by alexjbest** [comment]
Oh scrap that we have a merge conflict I guess, but after that is fixed let's merge this

**Comment by 101damnations** [comment]
Thank you! I have fixed the conflict

**Comment by alexjbest** [comment]
maintainer merge

File: Mathlib/RepresentationTheory/GroupCohomology/Hilbert90.lean [hunk 3]
```diff
@@ -24,15 +24,16 @@ Noether's generalization also holds for infinite Galois extensions.
 
 ## Main statements
 
-* `hilbert90`: for all $f: Aut_K(L) \to L^\times$ satisfying the 1-cocycle condition, there exists
-`β : Lˣ` such that $f(g)g(β) = β$ for all `g : Aut_K(L)`.
-* `groupCohomology.hilbert90`: $H^1(Aut_K(L), L^\times)$ is trivial.
+* `groupCohomology.isMulOneCoboundary_of_isMulOneCocycle_of_aut_to_units`: for all
```
Comment (jcommelin) [inline Mathlib/RepresentationTheory/GroupCohomology/Hilbert90.lean:27]: It looks like all mentions of Hilbert90 have left this file... please mention it in comments/docstrings.

Comment (101damnations) [reply Mathlib/RepresentationTheory/GroupCohomology/Hilbert90.lean]: done, thanks!

File: Mathlib/RepresentationTheory/GroupCohomology/Hilbert90.lean [hunk 4]
```diff
@@ -71,38 +74,38 @@ section
...
+    (f : (L ≃ₐ[K] L) → Lˣ) (hf : IsMulOneCocycle f) :
+    IsMulOneCoboundary f := by
 /- Let `z : L` be such that `∑ f(h) * h(z) ≠ 0`, for `h ∈ Aut_K(L)` -/
-  obtain ⟨z, hz⟩ : ∃ z, aux K L f z ≠ 0 :=
-    not_forall.1 (fun H => aux_ne_zero K L f <| funext fun x => H x)
-  have : aux K L f z = ∑ h, f h * h z := by simp [aux, Finsupp.total, Finsupp.sum_fintype]
-/- Let `β = ∑ f(h) * h(z).` -/
-  use Units.mk0 (aux K L f z) hz
+  obtain ⟨z, hz⟩ : ∃ z, aux f z ≠ 0 :=
+    not_forall.1 (fun H => aux_ne_zero f $ funext $ fun x => H x)
```
Comment (riccardobrasca) [inline Mathlib/RepresentationTheory/GroupCohomology/Hilbert90.lean:85]: I think people use nowadays `<|` more than `$`, but as you prefer.

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 5]
```diff
@@ -315,13 +320,23 @@ def twoCoboundaries : Submodule k (twoCocycles A) :=
 
 variable {A}
 
-theorem mem_oneCoboundaries_of_dZero_apply (x : A) :
-    ⟨dZero A x, LinearMap.ext_iff.1 (dOne_comp_dZero A) x⟩ ∈ oneCoboundaries A :=
-  LinearMap.mem_range_self _ _
+/-- Makes a 1-coboundary out of `f ∈ Im(d⁰)`. -/
+def oneCoboundariesOfMemRange (f : G → A) (h : f ∈ LinearMap.range (dZero A)) :
```
Comment (riccardobrasca) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:324]:
```suggestion
def oneCoboundariesOfMemRange {f : G → A} (h : f ∈ LinearMap.range (dZero A)) :
```
Not very important.

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 6]
```diff
@@ -315,13 +320,23 @@ def twoCoboundaries : Submodule k (twoCocycles A) :=
...
+    oneCoboundaries A :=
+  ⟨⟨f, LinearMap.range_le_ker_iff.2 (dOne_comp_dZero A) h⟩,
+    by rcases h with ⟨x, rfl⟩; exact ⟨x, rfl⟩⟩
 
-theorem mem_oneCoboundaries_of_mem_range (f : G → A) (h : f ∈ LinearMap.range (dZero A)) :
-    ⟨f, LinearMap.range_le_ker_iff.2 (dOne_comp_dZero A) h⟩ ∈ oneCoboundaries A := by
-  rcases h with ⟨x, rfl⟩; exact ⟨x, rfl⟩
+theorem oneCoboundaries_of_mem_range_apply (f : G → A) {h : f ∈ LinearMap.range (dZero A)} :
```
Comment (riccardobrasca) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:329]: Do you mean that `f` should be implict and `h` explicit? The other way seems very weird.

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 7]
```diff
@@ -315,13 +320,23 @@ def twoCoboundaries : Submodule k (twoCocycles A) :=
...
+    (oneCoboundariesOfMemRange f h).1.1 = f := rfl
+
+/-- Makes a 1-coboundary out of `f : G → A` and `x` such that
+`ρ(g)(x) - x = f(g)` for all `g : G`. -/
+def oneCoboundariesOfEq (f : G → A) (x : A) (hf : ∀ g, A.ρ g x - x = f g) :
```
Comment (riccardobrasca) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:334]: `f` can be implicit, but as you wish.

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 8]
```diff
@@ -332,19 +347,285 @@ theorem oneCoboundaries_eq_bot_of_isTrivial (A : Rep k G) [A.IsTrivial] :
   simp_rw [oneCoboundaries, dZero_eq_zero]
   exact LinearMap.range_eq_bot.2 rfl
 
-theorem mem_twoCoboundaries_of_dOne_apply (x : G → A) :
-    ⟨dOne A x, LinearMap.ext_iff.1 (dTwo_comp_dOne A) x⟩ ∈ twoCoboundaries A :=
-  LinearMap.mem_range_self _ _
+/-- Makes a 2-coboundary out of `f ∈ Im(d¹)`. -/
+def twoCoboundariesOfMemRange (f : G × G → A) (h : f ∈ LinearMap.range (dOne A)) :
```
Comment (riccardobrasca) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:351]: Again `f` can be implicit and similarly below.

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 9]
```diff
@@ -332,19 +347,285 @@ theorem oneCoboundaries_eq_bot_of_isTrivial (A : Rep k G) [A.IsTrivial] :
...
+    twoCoboundaries A :=
+  ⟨⟨f, LinearMap.range_le_ker_iff.2 (dTwo_comp_dOne A) h⟩,
+    by rcases h with ⟨x, rfl⟩; exact ⟨x, rfl⟩⟩
 
-theorem mem_twoCoboundaries_of_mem_range (f : G × G → A) (h : f ∈ LinearMap.range (dOne A)) :
-    ⟨f, LinearMap.range_le_ker_iff.2 (dTwo_comp_dOne A) h⟩ ∈ twoCoboundaries A := by
-  rcases h with ⟨x, rfl⟩; exact ⟨x, rfl⟩
+theorem twoCoboundariesOfMemRange_apply (f : G × G → A) {h : f ∈ LinearMap.range (dOne A)} :
```
Comment (riccardobrasca) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:356]: As above it seems weird. This happens also below.

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 10]
```diff
@@ -315,13 +320,23 @@ def twoCoboundaries : Submodule k (twoCocycles A) :=
...
+theorem oneCoboundaries_of_mem_range_apply (f : G → A) {h : f ∈ LinearMap.range (dZero A)} :
+    (oneCoboundariesOfMemRange f h).1.1 = f := rfl
+
+/-- Makes a 1-coboundary out of `f : G → A` and `x` such that
+`ρ(g)(x) - x = f(g)` for all `g : G`. -/
+def oneCoboundariesOfEq (f : G → A) (x : A) (hf : ∀ g, A.ρ g x - x = f g) :
+    oneCoboundaries A :=
+  oneCoboundariesOfMemRange f ⟨x, by ext g; exact hf g⟩
+
+theorem oneCoboundariesOfEq_apply (f : G → A) (x : A) {hf : ∀ g, A.ρ g x - x = f g} :
```
Comment (riccardobrasca) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:338]: Same.

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 11]
```diff
@@ -332,19 +347,285 @@ theorem oneCoboundaries_eq_bot_of_isTrivial (A : Rep k G) [A.IsTrivial] :
...
 end Coboundaries
+section IsCocycle
+section
+variable {G A : Type*} [Mul G] [AddCommGroup A] [SMul G A]
+
+/-- A function `f : G → A` satisfies the 1-cocycle condition if
+`f(gh) = g • f(h) + f(g)` for all `g, h : G`. -/
+def IsOneCocycle (f : G → A) : Prop := ∀ g h : G, f (g * h) = g • f h + f g
+
+theorem isOneCocycle_iff (f : G → A) :
```
Comment (riccardobrasca) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:383]: Is this lemma autogenerated by `@[mk_iff]`?

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 12]
```diff
@@ -332,19 +347,285 @@ theorem oneCoboundaries_eq_bot_of_isTrivial (A : Rep k G) [A.IsTrivial] :
...
+    IsOneCocycle f ↔ ∀ g h : G, f (g * h) = g • f h + f g := Iff.rfl
+
+/-- A function `f : G × G → A` satisfies the 2-cocycle condition if
+`f(gh, j) + f(g, h) = g • f(h, j) + f(g, hj)` for all `g, h : G`. -/
+def IsTwoCocycle (f : G × G → A) : Prop :=
+  ∀ g h j : G, f (g * h, j) + f (g, h) = g • (f (h, j)) + f (g, h * j)
+
+theorem isTwoCocycle_iff (f : G × G → A) :
```
Comment (riccardobrasca) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:391]: Same.

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 13]
```diff
@@ -332,19 +347,285 @@ theorem oneCoboundaries_eq_bot_of_isTrivial (A : Rep k G) [A.IsTrivial] :
...
+  Iff.rfl
+
+end
+section
+variable {G A : Type*} [Monoid G] [AddCommGroup A] [MulAction G A]
+
+theorem map_one_of_isOneCocycle (f : G → A) (hf : IsOneCocycle f) :
+    f 1 = 0 := by
+  have := (isOneCocycle_iff f).1 hf 1 1
+  simpa only [mul_one, one_smul, self_eq_add_right] using this
```
Comment (riccardobrasca) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:402]:
```suggestion
  simpa only [mul_one, one_smul, self_eq_add_right] using (isOneCocycle_iff f).1 hf 1 1
```
untested. If it works you can also remove the `by`. Same below.

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 14]
```diff
@@ -332,19 +347,285 @@ theorem oneCoboundaries_eq_bot_of_isTrivial (A : Rep k G) [A.IsTrivial] :
...
+    g • f (g⁻¹, g) - f (g, g⁻¹) = f (1, 1) - f (g, 1) := by
+  have := (isTwoCocycle_iff f).1 hf g g⁻¹ g
+  simp only [mul_right_inv, mul_left_inv, map_one_fst_of_isTwoCocycle _ hf g]
+    at this
+  exact sub_eq_sub_iff_add_eq_add.2 this.symm
+
+end
+end IsCocycle
+section IsCoboundary
+variable {G A : Type*} [Mul G] [AddCommGroup A] [SMul G A]
```
Comment (riccardobrasca) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:433]:
```suggestion
end IsCocycle

section IsCoboundary

variable {G A : Type*} [Mul G] [AddCommGroup A] [SMul G A]
```
I find it more readable, but do as you prefer.

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 15]
```diff
@@ -332,19 +347,285 @@ theorem oneCoboundaries_eq_bot_of_isTrivial (A : Rep k G) [A.IsTrivial] :
...
+
+theorem isTwoCoboundary_of_twoCoboundaries (f : twoCoboundaries (Rep.ofDistribMulAction k G A)) :
+    IsTwoCoboundary (A := A) f.1.1 := by
+  rcases mem_range_of_mem_twoCoboundaries f.1 f.2 with ⟨x, hx⟩
+  exact ⟨x, fun g h => Function.funext_iff.1 hx (g, h)⟩
+
+end ofDistribMulAction
+section IsMulCocycle
+section
+variable {G M : Type*} [Mul G] [CommGroup M] [SMul G M]
```
Comment (riccardobrasca) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:503]:
```suggestion
end ofDistribMulAction

section IsMulCocycle

section

variable {G M : Type*} [Mul G] [CommGroup M] [SMul G M]
```
This section is the same as above but for multiplicative groups, right? If this is the case we probably want a docstring explaining it.

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean (hunk 6 above)
Comment (101damnations) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:329]: I was under the impression that when a hypothesis is used to define something in the lemma statement, it can be left implicit

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean (hunk 7 above)
Comment (101damnations) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:334]: I know `f`'s in the type of `hf`, but I feel like I've been annoyed in the past by things with implicit data arguments where I then have to start the proof of some hypothesis with `show...`. I can't remember the context though so it may be irrelevant, and I guess in Lean 4 it's easier to just specify `f` with `(f := ...)` if you want to.

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean (hunk 11 above)
Comment (101damnations) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:383]: Only applies to inductive declarations, apparently. Maybe I should make `IsOneCocycle` etc a class?

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean (hunk 13 above)
Comment (101damnations) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:402]: This works, thank you. Confused about the `by` comment, though

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean (hunk 11 above)
Comment (alreadydone) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:383]: I think you can simply use `rw [IsOneCocycle]` and remove this lemma.

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean (hunk 13 above)
Comment (alreadydone) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:402]: Does `simpa only [mul_one, one_smul, self_eq_add_right] using hf 1 1` work?

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:329]: `f` appears in both sides of equality so I'd make it implicit. `h` doesn't appear in RHS so I'd make it explicit, for ease of rewriting from right to left.

Comment (101damnations) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:329]: I see, thank you!

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean (hunk 11 above)
Comment (101damnations) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:383]: Fair play, will do

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean (hunk 7 above)
Comment (riccardobrasca) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean]: If you find this version more convenient just keep it like that.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
